US09315521B2
To a suspension of sodium borohydride (0.24 g, 6.32 mmol) in anhydrous THF (40 mL) at 0° C. was added dropwise a solution of methyl 2-(trifluoromethyl)pyridine-3-carboxylate (650 mg, 3.16 mmol) in THF (50 mL). After stirring for 1 hour, the reaction mixture was slowly quenched with 15% NaOH and then diluted with water. Ethyl acetate was added, the reaction mixture was stirred for 10 minutes, and the precipitated white solid was filtered off. The solid was washed with ethyl acetate (3×100 mL). The organic layer was separated, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated to provide [2-(trifluoromethyl)pyridin-3-yl]methanol as a thick oil (0.505 g, 90% yield), which was used for the next step without any further purification; M+177.1.

reactant | sodium borohydride | 6.32 mmol, 0.24 g | [BH4-].[Na+]
reactant | methyl 2-(trifluoromethyl)pyridine-3-carboxylate | 3.16 mmol, 650 mg | FC(C1=NC=CC=C1C(=O)OC)(F)F | C8H6F3NO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [2-(trifluoromethyl)pyridin-3-yl]methanol | 0.505 g, 90% yield | FC(C1=NC=CC=C1CO)(F)F | C7H6F3NO
